US08809331B2
To a solution of methyl 4-amino-2,6-dimethoxybenzoate (510 mg, 2.42 mmol) in acetonitrile (10 mL) at 0° C. was added Selectfluor® (940 mg, 2.66 mmol). The mixture was stirred 30 minutes at 0° C. then water (10 mL) was added. The reaction was extracted twice with ethyl acetate (30 mL). The organic phases were combined, passed through a hydrophobic frit and the solvent was removed in vacuo. Purification of the residue via silica gel column chromatography (0-100% EtOAc in iso-hexane) gave methyl 4-amino-3-fluoro-2,6-dimethoxybenzoate (114 mg, 20%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 6.05 (d, J=6.4 Hz, 1H), 3.93 (s, 3H), 3.88 (s, 3H), 3.75 (s, 3H).

reactant | methyl 4-amino-2,6-dimethoxybenzoate | 2.42 mmol, 510 mg | NC1=CC(=C(C(=O)OC)C(=C1)OC)OC | C10H13NO4
reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 4-amino-3-fluoro-2,6-dimethoxybenzoate | 114 mg, 20% | NC1=C(C(=C(C(=O)OC)C(=C1)OC)OC)F | C10H12FNO4
